US03954754
EXAMPLE 23: 3-Hydrazino-5,6,7,8-tetrahydro-6-(p-methoxybenzoyl)pyrido[4,3-c]pyridazine
10.5 g of 3-chloro-5,6,7,8-tetrahydro-6-(p-methoxybenzoyl)pyrido[4,3-c]pyridazine and 100 cc of hydrazine hydrate are stirred at a bath temperature of 100° for 1 hour. The title compound has a M.P. of 169°-172° (decomp., from 95% ethanol).

reactant | 3-chloro-5,6,7,8-tetrahydro-6-(p-methoxybenzoyl)pyrido[4,3-c]pyridazine | 10.5 g | ClC1=CC2=C(N=N1)CCN(C2)C(C2=CC=C(C=C2)OC)=O | C15H14ClN3O2
reactant | hydrazine hydrate | 100 cc | O.NN
product | 3-Hydrazino-5,6,7,8-tetrahydro-6-(p-methoxybenzoyl)pyrido[4,3-c]pyridazine | N(N)C1=CC2=C(N=N1)CCN(C2)C(C2=CC=C(C=C2)OC)=O | C15H17N5O2
